US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-isopropylaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-isopropylnitrobenzene (4.1 g) in methanol (70 ml) was added palladium on carbon (0.4 g) and the mixture was stirred under a hydrogen atmosphere at room temperature for 3 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=3/2 as an eluant to give the desired compound (2.8 g, yield 74%) as a red oil.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-isopropylnitrobenzene | 4.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(C)C | C19H28N2O5
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-isopropylaniline | 2.8 g, yield 74% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(N)C=C1)C(C)C | C19H30N2O3
